US07799773B2
5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2(1H)-pyridinone (E213)
3-Cyclobutyl-7-{[6-(methyloxy)-3-pyridinyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine (E213a) (69 mg, 0.21 mmol) was dissolved in a solution of ethanol saturated with hydrogen chloride (5 ml). The reaction mixture was stirred at reflux for 18 hours, cooled and concentrated in vacuo. Purification of the resulting residue by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (1:9:90) afforded the title compound (E213). MS (ES+) m/e 311 [M+H]+.

reactant | 3-Cyclobutyl-7-{[6-(methyloxy)-3-pyridinyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.21 mmol, 69 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC=2C=NC(=CC2)OC | C20H24N2O2
solvent | ethanol | C(C)O | C2H6O
solvent | hydrogen chloride | 5 ml | Cl | ClH
product | 5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2(1H)-pyridinone | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC=2C=CC(NC2)=O | C19H22N2O2
